US04541959
To a solution of 8.53 g of 3-(4-phenylthiobenzoyl)acrylic acid in 50 ml of dimethylformamide were added 4.54 g of dimethyl sulfate and 2.50 g of potassium carbonate, and the resulting mixture was stirred at room temperature for 3 hours. To the reaction solution was added water, and the mixture was extracted from diethyl ether. The organic layer was washed, in turn, with water, a saturated aqueous solution of sodium hydrogen-carbonate and water, and dried over magnesim sulfate. The diethyl ether was removed from the solution by evaporation, and the residue was recrystallized from a mixture of hexane and dichloromethane to give 6.80 g of methyl 3-(4-phenylthiobenzoyl)acrylate.

reactant | 3-(4-phenylthiobenzoyl)acrylic acid | 8.53 g | C1(=CC=CC=C1)C1=CC=C(C(=S)C=CC(=O)O)C=C1 | C16H12O2S
reactant | dimethyl sulfate | 4.54 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | potassium carbonate | 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl 3-(4-phenylthiobenzoyl)acrylate | 6.80 g | C1(=CC=CC=C1)C1=CC=C(C(=S)C=CC(=O)OC)C=C1 | C17H14O2S
